US04061761
4(4-Chloro-3-sulfamoylphenyl)-3-cyclohexyl-2-(3-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 3.7 g of 1-cyclohexyl-3-(3-pyridylmethyl)-thiourea were reacted as prescribed in Example 23. The end product precipitated first as oil and crystallized after stirring for several hours at room temperature. Colorless crystals, melting point 140° C, decomposition beginning at 165° C, γC=N 1600 cm-1.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-cyclohexyl-3-(3-pyridylmethyl)-thiourea | 3.7 g | C1(CCCCC1)NC(=S)NCC=1C=NC=CC1 | C13H19N3S
product | 4(4-Chloro-3-sulfamoylphenyl)-3-cyclohexyl-2-(3-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC=1C=NC=CC1)C1CCCCC1)O)S(N)(=O)=O | InChI=1S/C21H25ClN4O3S2.BrH/c22-18-9-8-16(11-19(18)31(23,28)29)21(27)14-30-20(25-13-15-5-4-10-24-12-15)26(21)17-6-2-1-3-7-17;/h4-5,8-12,17,27H,1-3,6-7,13-14H2,(H2,23,28,29);1H
